US04571397
Synthesis of 4-chloro-2-ethyl-5-(p-trimethylsilylbenzyloxy)-3-(2H)-pyridazinone (Compound 4.6)
1.8 g of anhydrous potassium carbonate and 2.1 g of p-trimethylsilylbenzylbromide were added to 1.5 g of 4-chloro-2-ethyl-5-hydroxy-3(2H)-pyridazinone dissolved in 10 ml of N,N-dimethylformamide, and the resulting mixture was heated in an oil bath of 120°-130° C. for 2 hours. After the reaction mixture was allowed to cool to room temperature, 100 ml of water was added thereto and the mixture was stirred vigorously. Precipitate was filtered, washed with water and dried to obtain 1.7 g of a crude product. The product was recrystallized from a mixed solvent of isopropyl ether and ethyl acetate to obtain the intended compound (Compound No. 4.6) having m.p. 122°-125° C. (yield: 44.8%).

reactant | potassium carbonate | 1.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | p-trimethylsilylbenzylbromide | 2.1 g | C[Si](C1=CC=C(CBr)C=C1)(C)C | C10H15BrSi
reactant | 4-chloro-2-ethyl-5-hydroxy-3(2H)-pyridazinone | 1.5 g | ClC=1C(N(N=CC1O)CC)=O | C6H7ClN2O2
reactant | water | 100 ml | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-chloro-2-ethyl-5-(p-trimethylsilylbenzyloxy)-3-(2H)-pyridazinone | 1.7 g, yield: 44.8% | ClC=1C(N(N=CC1OCC1=CC=C(C=C1)[Si](C)(C)C)CC)=O | C16H21ClN2O2Si
